US04847289
Step A: Preparation of 2-(3-Hydroxypropylthio)thiophene
To a suspension of lithium aluminum hydride (20.1 g, 0.53 mol) in THF (125 ml), cooled to 0° C. was added a solution of 5-(2-carboxyethylthio)thiophene (25.0 g, 0.13 mol) in THF (125 ml) dropwise. The mixture was refluxed for 2 hours, cooled to 0° C. and saturated Na2SO4 was added dropwise. The solid was filtered, washed with CHCl3 and the filtrate was concentrated. Water was added to the residue and extracted with CHCl3. Drying and solvent evaporation gave an oily, product (21.7 g, 96%).

reactant | lithium aluminum hydride | 0.53 mol, 20.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(2-carboxyethylthio)thiophene | 0.13 mol, 25.0 g | C(=O)(O)CCSC1=CC=CS1 | C7H8O2S2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 2-(3-Hydroxypropylthio)thiophene | 21.7 g, 96% | OCCCSC=1SC=CC1 | C7H10OS2
